US08389524B2
(c) N-(3-Bromo-6-chloro-2-pyridinyl)-2,2-dimethyl-N-2-propen-1-ylpropanamide
A solution of N-(3-bromo-6-chloro-2-pyridinyl)-2,2-dimethylpropanamide (2.305 g, 7.907 mmol) in DMF (40 ml) at 0° C. under argon was treated with sodium hydride (0.696 g, 17.395 mmol) and then allowed warm to rt over 0.25 h, stirred at rt for 0.25 h and then treated with allyl iodide (1.61 ml, 17.395 mmol) and stirred at rt for 1 h. The reaction was then treated with water (10 ml), concentrated to approximately 5 ml, treated with more water (200 ml) and extracted with DCM (3×200 ml). The organic extracts were dried (MgSO4), filtered, evaporated and the residue chromatographed (0-20% ethyl acetate:Hexane) to give the product as a yellow oil which solidified to an off white solid (5.324 g, 67%).

reactant | N-(3-bromo-6-chloro-2-pyridinyl)-2,2-dimethylpropanamide | 7.907 mmol, 2.305 g | BrC=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O | C10H12BrClN2O
reactant | sodium hydride | 17.395 mmol, 0.696 g | [H-].[Na+]
reactant | allyl iodide | 17.395 mmol, 1.61 ml | C(C=C)I | C3H5I
reactant | water | 10 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | N-(3-Bromo-6-chloro-2-pyridinyl)-2,2-dimethyl-N-2-propen-1-ylpropanamide | BrC=1C(=NC(=CC1)Cl)N(C(C(C)(C)C)=O)CC=C | C13H16BrClN2O
